### PR TITLE
fix #1849 (closure_subset -> closureS)

### LINKED ISSUE #1849: naming glitch at `closure_subset`
There are
```
Lemma interior_subset {T} [A : set T] : A° `<=` A
Lemma subset_closure {T} [A : set T] : A `<=` closure A
Lemma closure_subset [T] [A B : set T] : A `<=` B -> closure A `<=` closure B
```
It looks like the first two are named according to the position of each operator wrt the subset relation.
The third one looks ad-hoc, and especially problematic if we want to add its interior counterpart.

```
Lemma subset_interior [T] [A B : set T] : A `<=` B -> interior A `<=` interior B
```
This name would be bad.

### PR DESCRIPTION
**Pull request by t6s**
##### Motivation for this change

- fix #1849
- add `interiorS`

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/topology_theory/topology_structure.v [hunk 1]
```diff
@@ -838,12 +838,12 @@ Section closure_lemmas.
 Variable T : topologicalType.
 Implicit Types E A B U : set T.
 
-Lemma closure_subset A B : A `<=` B -> closure A `<=` closure B.
+Lemma closureS A B : A `<=` B -> closure A `<=` closure B.
 Proof. by move=> ? ? CAx ?; move/CAx; exact/subsetI_neq0. Qed.
```
Comment (CohenCyril) [inline theories/topology_theory/topology_structure.v:844]:
```suggestion
Lemma closureS A B : A `<=` B -> closure A `<=` closure B.
Proof. by move=> ? ? CAx ?; move/CAx; exact/subsetI_neq0. Qed.

#[deprecated(since="mathcomp-analysis 1.16.0", use="closureS")]
Definition closure_subset := closureS.
```

Comment (t6s) [reply theories/topology_theory/topology_structure.v:844]: thanks, added that

Comment (t6s) [reply theories/topology_theory/topology_structure.v:844]: (`use="closureS"` didn't work; `use=closureS` did)

**Comment by t6s** [comment]
use -> note, and rebased
